US08314094B2
4-fluoro-N-{[2-oxo-6-(1H-1,2,4-triazol-5-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide
To a stirring and cooling solution of 1-[(benzyloxy)methyl]-1H-1,2,4-triazole (41.7 mg, 0.22 mmol) in THF (0.3 mL) at −78° C., n-butyl lithium (92 μL, 2.4 M hexane solution) was added dropwise thereto. After the reaction solution was stirred at the same temperature for 10 minutes, a solution of zinc bromide (59.5 mg, 0.26 mmol) in THF (0.3 mL) was added thereto at −78° C. The solution was stirred at −78° C. for 20 minutes, and then the temperature of the solution was gradually raised to room temperature. To the reaction solution, tetrakis(triphenylphosphine)palladium (10 mg, 0.009 mmol), N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide (50 mg, 0.088 mmol) and DMF (0.5 mL) were added, and the solution was stirred overnight at 100° C. The temperature of the solution was brought to room temperature and the solution was diluted with ethyl acetate and water was added thereto. Then, the organic layer was separated. The organic layer was washed sequentially with an aqueous citric acid solution and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/1), and 36.6 mg of a pale yellow liquid was obtained as a crude product.

reactant | 1-[(benzyloxy)methyl]-1H-1,2,4-triazole | 0.22 mmol, 41.7 mg | C(C1=CC=CC=C1)OCN1N=CN=C1 | C10H11N3O
reactant | n-butyl lithium | 2.4 M, 92 μL | C(CCC)[Li]
reactant | N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | 0.088 mmol, 50 mg | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C25H19BrF4N2O4
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | zinc bromide | 0.26 mmol, 59.5 mg | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluoro-N-{[2-oxo-6-(1H-1,2,4-triazol-5-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide | 36.6 mg | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)C3=NC=NN3)=O)C(F)(F)F)C=C1 | C19H13F4N5O3
